US07507740B2
Production of 4-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5,6-dihydro-4H-pyrazolo[4,5,1-de]pteridine
A solution of 2-[7-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]ethanol (40 mg), 1,1′-(azodicarbonyl)dipiperidine (48 mg) and tributylphosphine (40 mg) in tetrahydrofuran (2 mL) was stirred at room temperature for 15 hrs. After the completion of the reaction, water was added to the reaction mixture and the mixture was diluted with ethyl acetate and washed with saturated brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1→1/4) to give the title compound (31 mg) as a white solid.

reactant | 2-[7-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]ethanol | 40 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=NN2CCO | C20H17ClFN5O2
reactant | 1,1′-(azodicarbonyl)dipiperidine | 48 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 40 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | water | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5,6-dihydro-4H-pyrazolo[4,5,1-de]pteridine | 31 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)N1CCN2C3=C(N=CN=C13)C=N2 | C20H15ClFN5O
